US04544753
d. N-[3-(2,6-Difluorobenzoyl)-5-methylisoxazol-4-yl]bromoacetamide
Bromoacetyl bromide (44 g, 222 mmoles) was added slowly to a mixture of (4-amino-5-methylisoxazol-3-yl)-2,6-difluorophenylmethanone of Example XIIIc (48 g, 202 mmoles) in dichloromethane (400 ml) with 2N sodium carbonate (125 ml) and saturated sodium chloride, dried (sodium sulfate) and evaporated to glve 72 g of an oil. The residue (3.0 g) was flash chromatographed (25% ethyl acetate:hexane) to yield 2.3 g (77%) of a solid, melting point 76°-80° C.

reactant | Bromoacetyl bromide | 222 mmoles, 44 g | BrCC(=O)Br | C2H2Br2O
reactant | (4-amino-5-methylisoxazol-3-yl)-2,6-difluorophenylmethanone | NC=1C(=NOC1C)C(=O)C1=C(C=CC=C1F)F | C11H8F2N2O2
reactant | sodium carbonate | 2N, 125 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | N-[3-(2,6-Difluorobenzoyl)-5-methylisoxazol-4-yl]bromoacetamide | 2.3 g, 77% | FC1=C(C(=O)C2=NOC(=C2NC(CBr)=O)C)C(=CC=C1)F | C13H9BrF2N2O3
